US06548448B2
Diphenylamine (0.42 g, 2.5 mmol) in 10 ml of THF was cooled to −78° C. and treated with 1.6 ml (1.4M, 2.2 mmol) methyllithium. 1-(7-Methanesulfonyloxyheptyl)-cyclopropene was added, the bath was removed, and the reaction mixture was allowed to warm to room temperature. The reaction was held for 5.5 hours, then quenched with water. Ether and water were added to the reaction mixture and the phases were separated. The ether phase was washed with water twice, washed with brine, dried over magnesium sulfate and stripped. The product was chromatographed to give 80 mg of 7-(diphenylamino)-1-heptylcyclopropene as a colorless liquid.

reactant | Diphenylamine | 2.5 mmol, 0.42 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | methyllithium | 2.2 mmol, 1.4M, 1.6 ml | C[Li]
reactant | 1-(7-Methanesulfonyloxyheptyl)-cyclopropene | CS(=O)(=O)OCCCCCCCC1=CC1 | C11H20O3S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 7-(diphenylamino)-1-heptylcyclopropene | 80 mg | C1(=CC=CC=C1)N(CCCCCCCC1=CC1)C1=CC=CC=C1 | C22H27N
